US05155113
Preparation of 4-(4-n-propoxybenzoyloxy)-2-pyridone
A 2.14 g quantity of 4-n-propoxybenzoyl chloride was added to a suspension of 1.00 g of 4-hydroxy-2-pyridone in 30 ml of pyridine, and the mixture was stirred at room temperature for 4 hours. The reaction mixture was concentrated and the concentrate was washed with ethyl acetate and water, thereby producing 1.98 g of the title compound in a yield of 81%.

reactant | 4-n-propoxybenzoyl chloride | C(CC)OC1=CC=C(C(=O)Cl)C=C1 | C10H11ClO2
reactant | 4-hydroxy-2-pyridone | 1.00 g | OC1=CC(NC=C1)=O | C5H5NO2
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | 4-(4-n-propoxybenzoyloxy)-2-pyridone | 1.98 g, yield of 81% | C(CC)OC1=CC=C(C(=O)OC2=CC(NC=C2)=O)C=C1 | C15H15NO4
